US08030499B2
Step 139-1 Synthesis of tert-butyl (2S,4R)-4-(3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)-2-[(dimethylamino)carbonyl]pyrrolidine-1-carboxylate
Under nitrogen atmosphere, to a suspension of 1.55 g of NaH in THF (100 ml) was added 10.0 g of tert-butyl (2S,4S)-2-[(dimethylamino)carbonyl]-4-hydroxypyrrolidine-1-carboxylate and the reaction mixture was stirred at 50° C. for one hour. Thereafter, at the same temperature, solution of 23.2 g of (3-iodopropyl)-tert-butyl-dimethyl silane in THF (10 ml) was added, and the solution was refluxed for two hours. The solution was poured into water and the resulting mixture was extracted with EtOAc; the organic layer was washed with saturated brine and dried over MgSO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60N; mobile phase: n-hexane/EtOAc=1/1 to 0/1; v/v) to obtain 2.10 g of the title compound.

reactant | NaH | 1.55 g | [H-].[Na+]
reactant | tert-butyl (2S,4S)-2-[(dimethylamino)carbonyl]-4-hydroxypyrrolidine-1-carboxylate | 10.0 g | CN(C(=O)[C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)C | C12H22N2O4
reactant | (3-iodopropyl)-tert-butyl-dimethyl silane | 23.2 g | ICCC[Si](C)(C)C(C)(C)C | C9H21ISi
reactant | water | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl (2S,4R)-4-(3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)-2-[(dimethylamino)carbonyl]pyrrolidine-1-carboxylate | 2.10 g | [Si](C)(C)(C(C)(C)C)OCCCO[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N(C)C | C21H42N2O5Si
